US09056873B2
A solution of tert-butyl 6-((1R,2S)-2-(tert-butoxycarbonylamino)cyclohexylamino)-4-chloro-7-fluoro-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate (152 mg, 0.305 mmol), 4-fluorobenzo[b]thiophen-2-ylboronic acid (149 mg, 0.762 mmol) and tetrakis(triphenylphosphine)palladium(0) (352 mg, 0.305 mmol) in dioxane and saturated aqueous NaHCO3 (1:1, 5 mL) was heated to 120° C. via microwave irradiation for 30 minutes. The reaction mixture was diluted with EtOAc (50 mL) and saturated aqueous NaHCO3 (100 mL). The organic layer was separated and the aqueous layer was washed with EtOAc (50 mL). The organic layers were combined, dried over Na2SO4, and the solvent was removed in vacuo to give the intermediate, tert-butyl 6-(((1R,2S)-2-((tert-butoxycarbonyl)amino)cyclohexyl)amino)-7-fluoro-4-(4-fluorobenzo[b]thiophen-2-yl)-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate. The intermediate was dispersed in TFA and DCM (1:1, 10 mL) and stirred at room temperature for 60 minutes. The mixture was concentrated and the resulting crude material was reconstituted in MeOH/DCM (10.0 mL) and was purified via preparative HPLC eluting with a gradient of 30-50% ACN (0.035% TFA) and H2O (0.05% TFA). The combined fractions were neutralized with saturated aqueous NaHCO3, washed with EtOAc (2×200 mL), dried over Na2SO4, and filtered. The organic phase was stripped to dryness via rotary evaporation to give the title compound (83 mg, 66%). 1H NMR (500 MHz, DMSO-d6) δ ppm 1.31-1.48 (m, 2H), 1.55-1.85 (m, 6H), 3.17 (s, 2H), 4.10 (dd, J=6.35, 2.93 Hz, 2H), 4.45 (s, 2H), 6.79 (d, J=6.35 Hz, 1H), 7.19 (dd, J=10.25, 7.81 Hz, 1H), 7.40 (td, J=8.05, 5.37 Hz, 1H), 7.82 (d, J=8.30 Hz, 1H), 8.56 (s, 1H), 9.56 (s, 1H). ESI-MS m/z [M+H]+ calc'd for C21H20F2N4OS, 415. found, 415.

reactant | tert-butyl 6-((1R,2S)-2-(tert-butoxycarbonylamino)cyclohexylamino)-4-chloro-7-fluoro-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate | 0.305 mmol, 152 mg | C(C)(C)(C)OC(=O)N[C@@H]1[C@@H](CCCC1)NC1=C(C2=C(C(=N1)Cl)C(N(C2)C(=O)OC(C)(C)C)=O)F | C23H32ClFN4O5
reactant | 4-fluorobenzo[b]thiophen-2-ylboronic acid | 0.762 mmol, 149 mg | FC1=CC=CC=2SC(=CC21)B(O)O | C8H6BFO2S
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | NaHCO3 | 5 mL | C(=O)(O)[O-].[Na+]
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
solvent | NaHCO3 | 100 mL | C(=O)(O)[O-].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.305 mmol, 352 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-butyl 6-(((1R,2S)-2-((tert-butoxycarbonyl)amino)cyclohexyl)amino)-7-fluoro-4-(4-fluorobenzo[b]thiophen-2-yl)-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate | C(C)(C)(C)OC(=O)N[C@@H]1[C@@H](CCCC1)NC1=C(C2=C(C(=N1)C1=CC3=C(S1)C=CC=C3F)C(N(C2)C(=O)OC(C)(C)C)=O)F | C31H36F2N4O5S
